* FILE: MMI_SFFMB.sp


* SPICE netlist for "MMI_SFFMB" (generated by MMI_SUE4.1.5)

.SUBCKT inverter in out WP=2 LP=lp_min WN=1 LN=ln_min
M_0 out in gnd gnd n W='WN*1u' L=LN ad='arean(WN,sdd)' as='arean(WN,sdd)' 
+ pd='perin(WN,sdd)' ps='perin(WN,sdd)' 
M_1 out in vdd vdd p W='WP*1u' L=LP ad='areap(WP,sdd)' as='areap(WP,sdd)' 
+ pd='perip(WP,sdd)' ps='perip(WP,sdd)' 
.ENDS	$ inverter

.SUBCKT xgate in in_L t1 t2 WP=2 WN=1
M_0 t2 in_L t1 vdd p W='WP*1u' L=lp_min ad='areap(WP,sdd)' 
+ as='areap(WP,sdd)' pd='perip(WP,sdd)' ps='perip(WP,sdd)' 
M_1 t2 in t1 gnd n W='WN*1u' L=ln_min ad='arean(WN,sdd)' as='arean(WN,sdd)' 
+ pd='perin(WN,sdd)' ps='perin(WN,sdd)' 
.ENDS	$ xgate

.SUBCKT nand2 in0 in1 out WP=2 WN=2
M_0 out in0 vdd vdd p W='WP*1u' L=lp_min ad='areap(WP,sdd)' 
+ as='areap(WP,sdd)' pd='perip(WP,sdd)' ps='perip(WP,sdd)' 
M_1 out in0 net_1 gnd n W='WN*1u' L=ln_min ad='arean(WN,sdd)' 
+ as='arean(WN,sdd)' pd='perin(WN,sdd)' ps='perin(WN,sdd)' 
M_2 out in1 vdd vdd p W='WP*1u' L=lp_min ad='areap(WP,sdd)' 
+ as='areap(WP,sdd)' pd='perip(WP,sdd)' ps='perip(WP,sdd)' 
M_3 net_1 in1 gnd gnd n W='WN*1u' L=ln_min ad='arean(WN,sdd)' 
+ as='arean(WN,sdd)' pd='perin(WN,sdd)' ps='perin(WN,sdd)' 
.ENDS	$ nand2

.SUBCKT MMI_SFFMB clk d0 d1 q s_en s_in s_out sel 
Xinverter N5 q inverter WP=1.84 WN=0.92
M_0 N1 d0 net_1 vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
M_1 N1 d0 net_2 gnd n W='0.92*1u' L=ln_min ad='arean(0.92,sdd)' 
+ as='arean(0.92,sdd)' pd='perin(0.92,sdd)' ps='perin(0.92,sdd)' 
Xinverter_1 clk clk_L inverter WP=0.92 WN=0.46
M_2 N1 s_en_L net_3 vdd p W='0.92*1u' L=lp_min ad='areap(0.92,sdd)' 
+ as='areap(0.92,sdd)' pd='perip(0.92,sdd)' ps='perip(0.92,sdd)' 
M_3 N1 s_en net_4 gnd n W='0.46*1u' L=ln_min ad='arean(0.46,sdd)' 
+ as='arean(0.46,sdd)' pd='perin(0.46,sdd)' ps='perin(0.46,sdd)' 
M_4 net_4 s_in gnd gnd n W='0.46*1u' L=ln_min ad='arean(0.46,sdd)' 
+ as='arean(0.46,sdd)' pd='perin(0.46,sdd)' ps='perin(0.46,sdd)' 
M_5 net_3 s_in vdd vdd p W='0.92*1u' L=lp_min ad='areap(0.92,sdd)' 
+ as='areap(0.92,sdd)' pd='perip(0.92,sdd)' ps='perip(0.92,sdd)' 
M_6 net_5 N5 gnd gnd n W='0.42*1u' L=ln_min ad='arean(0.42,sdd)' 
+ as='arean(0.42,sdd)' pd='perin(0.42,sdd)' ps='perin(0.42,sdd)' 
M_7 N4 clk net_6 vdd p W='0.42*1u' L=lp_min ad='areap(0.42,sdd)' 
+ as='areap(0.42,sdd)' pd='perip(0.42,sdd)' ps='perip(0.42,sdd)' 
M_8 N4 clk_L net_5 gnd n W='0.42*1u' L=ln_min ad='arean(0.42,sdd)' 
+ as='arean(0.42,sdd)' pd='perin(0.42,sdd)' ps='perin(0.42,sdd)' 
M_9 net_6 N5 vdd vdd p W='0.42*1u' L=lp_min ad='areap(0.42,sdd)' 
+ as='areap(0.42,sdd)' pd='perip(0.42,sdd)' ps='perip(0.42,sdd)' 
M_10 net_7 N3 vdd vdd p W='0.42*1u' L=lp_min ad='areap(0.42,sdd)' 
+ as='areap(0.42,sdd)' pd='perip(0.42,sdd)' ps='perip(0.42,sdd)' 
M_11 N2 clk_L net_7 vdd p W='0.42*1u' L=lp_min ad='areap(0.42,sdd)' 
+ as='areap(0.42,sdd)' pd='perip(0.42,sdd)' ps='perip(0.42,sdd)' 
M_12 N2 clk net_8 gnd n W='0.42*1u' L=ln_min ad='arean(0.42,sdd)' 
+ as='arean(0.42,sdd)' pd='perin(0.42,sdd)' ps='perin(0.42,sdd)' 
M_13 net_8 N3 gnd gnd n W='0.42*1u' L=ln_min ad='arean(0.42,sdd)' 
+ as='arean(0.42,sdd)' pd='perin(0.42,sdd)' ps='perin(0.42,sdd)' 
Xxgate clk clk_L N3 N4 xgate WP=0.92 WN=0.42
Xxgate_1 clk_L clk N2 N1 xgate WP=0.92 WN=0.42
Xnand2 N5 s_en s_out nand2 WP=0.84 WN=0.84
Xinverter_2 N4 N5 inverter WP=0.92 WN=0.62
Xinverter_3 N2 N3 inverter WP=0.92 WN=0.46
M_14 net_1 sel net_9 vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
M_15 N1 d1 net_10 vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
M_16 net_10 sel_L net_9 vdd p W='1.84*1u' L=lp_min ad='areap(1.84,sdd)' 
+ as='areap(1.84,sdd)' pd='perip(1.84,sdd)' ps='perip(1.84,sdd)' 
M_17 net_2 sel_L net_11 gnd n W='0.92*1u' L=ln_min ad='arean(0.92,sdd)' 
+ as='arean(0.92,sdd)' pd='perin(0.92,sdd)' ps='perin(0.92,sdd)' 
M_18 net_12 sel net_11 gnd n W='0.92*1u' L=ln_min ad='arean(0.92,sdd)' 
+ as='arean(0.92,sdd)' pd='perin(0.92,sdd)' ps='perin(0.92,sdd)' 
M_19 N1 d1 net_12 gnd n W='0.92*1u' L=ln_min ad='arean(0.92,sdd)' 
+ as='arean(0.92,sdd)' pd='perin(0.92,sdd)' ps='perin(0.92,sdd)' 
M_20 net_9 s_en vdd vdd p W='3.68*1u' L=lp_min ad='areap(3.68,sdd)' 
+ as='areap(3.68,sdd)' pd='perip(3.68,sdd)' ps='perip(3.68,sdd)' 
M_21 net_11 s_en_L gnd gnd n W='1.84*1u' L=ln_min ad='arean(1.84,sdd)' 
+ as='arean(1.84,sdd)' pd='perin(1.84,sdd)' ps='perin(1.84,sdd)' 
Xinverter_4 s_en s_en_L inverter WP=0.92 WN=0.46
Xinverter_5 sel sel_L inverter WP=0.92 WN=0.46
.ic N4=0V
.ENDS	$ MMI_SFFMB

.GLOBAL gnd vdd

